US06586447B1
10D. 6-Bromo-7-methyl-1-naphthalen-2-ylmethyl-3,3-bis-pyridin-4-ylmethyl-1,3-dihydro-indol-2-one
To a solution of 6-bromo-7-methyl-1-naphthalen-2-ylmethyl-1,3-dihydro-indol-2-one (495.7 mg, 1.36 mmol) in THF (30 ml) was added 4-picolyl chloride hydrochloride (893 mg, 5.45 mmol). The resulting suspension was purged with nitrogen gas for 10 minutes, after which time an aqueous potassium hydroxide (1N, 10.88 ml, degassed for 10 minutes prior to the addition) was added dropwise at room temperature. The dark solution was stirred at room temperature overnight. After removal of THF, the reaction mixture was partitioned between water and ethyl ether. The organic layer was dried over MgSO4, filtered and concentrated under vacuum to give the crude product. It was chromatographed on flash silica gel eluting with ethyl acetate to provide the title compound of 2D (524 mg, 0.956 mmol, 70.3% yield).

reactant | 6-bromo-7-methyl-1-naphthalen-2-ylmethyl-1,3-dihydro-indol-2-one | 1.36 mmol, 495.7 mg | BrC1=CC=C2CC(N(C2=C1C)CC1=CC2=CC=CC=C2C=C1)=O | C20H16BrNO
reactant | 4-picolyl chloride hydrochloride | 5.45 mmol, 893 mg | Cl.N1=CC=C(C=C1)CCl
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 6-Bromo-7-methyl-1-naphthalen-2-ylmethyl-3,3-bis-pyridin-4-ylmethyl-1,3-dihydro-indol-2-one | BrC1=CC=C2C(C(N(C2=C1C)CC1=CC2=CC=CC=C2C=C1)=O)(CC1=CC=NC=C1)CC1=CC=NC=C1 | C32H26BrN3O
